US09315487B2
Aluminium trichloride (31.6 g, 237 mmol) was suspended in DCM (320 mL) and cooled in an ice-bath. A solution of 1-methylethyl ((2S,4R)-1-acetyl-6-bromo-2-methyl-1,2,3,4-tetrahydroquinolin-4-yl)carbamate (for a preparation, see Intermediate 1) (25 g, 67.7 mmol) in DCM (100 mL) was added dropwise over approximately 45 mins and the mixture was left to stir in the ice-bath for a further 1 h. The reaction mixture was quenched by dropwise addition of NaOH (28.4 g, 711 mmol) in water (350 mL), resulting in the formation of a thick precipitate which was broken up to ensure stirring continued. A solution of potassium sodium tartrate (100 g, 354 mmol) in water (400 mL) was added and the mixture stirred overnight. The organic layer was separated and the aqueous layer was further extracted with DCM (2×200 mL). The combined organic layers were dried (Na2SO4), filtered and concentrated to give 1-((2S,4R)-4-amino-6-bromo-2-methyl-3,4-dihydroquinolin-1(2H)-yl)ethanone (20.71 g, 65.8 mmol, 97% yield) as a sticky brown oil.

reactant | Aluminium trichloride | 237 mmol, 31.6 g | [Cl-].[Cl-].[Cl-].[Al+3]
reactant | 1-methylethyl ((2S,4R)-1-acetyl-6-bromo-2-methyl-1,2,3,4-tetrahydroquinolin-4-yl)carbamate | C(C)(=O)N1[C@H](C[C@H](C2=CC(=CC=C12)Br)NC(OC(C)C)=O)C | C16H21BrN2O3
reactant | NaOH | 711 mmol, 28.4 g | [OH-].[Na+]
reactant | potassium sodium tartrate | 354 mmol, 100 g | C(=O)([O-])C(O)C(O)C(=O)[O-].[Na+].[K+]
solvent | DCM | 320 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 100 mL | C(Cl)Cl | CH2Cl2
solvent | water | 350 mL | O | H2O
solvent | water | 400 mL | O | H2O
product | 1-((2S,4R)-4-amino-6-bromo-2-methyl-3,4-dihydroquinolin-1(2H)-yl)ethanone | 65.8 mmol, 20.71 g, 97% yield | N[C@@H]1C[C@@H](N(C2=CC=C(C=C12)Br)C(C)=O)C | C12H15BrN2O
